US05213709
To 0.70 g (2.17 mM) of 7-octyl-2-fluorenecarboxylic acid, 2.1 ml of thionyl chloride and a drop of N,N-dimethylformamide (DMF) were added, followed by heat-refluxing for 20 minutes under stirring. After the reaction, an excessive thionyl chloride was distilled-off under reduced pressure to obtain 7-octyl-2-fluorenecarbonyl chloride.

reactant | 7-octyl-2-fluorenecarboxylic acid | 2.17 mM, 0.70 g | C(CCCCCCC)C1=CC=C2C=3C=CC(=CC3CC2=C1)C(=O)O | C22H26O2
reactant | thionyl chloride | 2.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-octyl-2-fluorenecarbonyl chloride | C(CCCCCCC)C1=CC=C2C=3C=CC(=CC3CC2=C1)C(=O)Cl | C22H25ClO
